US06762318B2
4-[4-(4-tert-Butylphenyl)-4-oxo-2-(4-trifluoromethoxyphenyl)butyryl]benzoic acid methyl ester (13.9 g, 27.2 mmol) was suspended in ethanol (120 mL, 96%) and added sodium hydroxide (4N, 27,2 mL). After 4½ h the reaction was evaporated to dryness. The residue was added water (200 mL) and hydrochloric acid (4N, 30 mL) to pH 1-2 causing precipitation. The mixture was stirred for ½ h. The precipitate was filtered, washed carefully with water, and dried the night over at 40° C. in vacuo. The residue was crystallised from methanol and water to afford 4-[4-(4-tert-butylphenyl)-4-oxo-2-(4-trifluoromethoxyphenyl)butyryl]benzoic acid (10.4 g).

reactant | 4-[4-(4-tert-Butylphenyl)-4-oxo-2-(4-trifluoromethoxyphenyl)butyryl]benzoic acid methyl ester | 27.2 mmol, 13.9 g | COC(C1=CC=C(C=C1)C(C(CC(=O)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C29H27F3O5
reactant | sodium hydroxide | 4N, 27,2 mL | [OH-].[Na+]
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 4-[4-(4-tert-butylphenyl)-4-oxo-2-(4-trifluoromethoxyphenyl)butyryl]benzoic acid | 10.4 g | C(C)(C)(C)C1=CC=C(C=C1)C(CC(C(=O)C1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)OC(F)(F)F)=O | C28H25F3O5
